US04792547
6-(Ethylamino)-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide
To a suspension of 2.26 g of 6-chloro-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide in 30 ml of ethanol, 4.05 ml of 70%-ethylamine aqueous solution was added, and the mixture was heated for 24 hours at 80°-90 ° C. in a sealed tube. The reaction mixture was adjusted with ethanolic hydrogen chloride to pH 3. The precipitate was collected by filtration, and recrystalized from a mixture of dimethylsulfoxide and methanol affording 1.66 g of the desired compound as pale yellow needles, m.p. 272°-273.5 ° C. (decomp.).

reactant | 6-chloro-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide | 2.26 g | ClC1=CN=CC(=N1)C(=O)NC1=NN=NN1 | C6H4ClN7O
reactant | ethylamine | C(C)N | C2H7N
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-(Ethylamino)-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide | C(C)NC1=CN=CC(=N1)C(=O)NC1=NN=NN1 | C8H10N8O
